Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Wound erythema
 
Major Surgical or Invasive Procedure:
___: Feeding tube placement

 
History of Present Illness:
___ with history of ETOH cirrhosis s/p combined liver &
kidney transplant ___, ___ c/b biliary stricture and 
chronic rejection now s/p re-transplant ___ with multiple
re-admissions since then most recently for PNA (discharged
___ who now presents with ___ erythema and
purulent drainage c/f surgical site infection.  He first noticed
the erythema and drainage yesterday, and denies fevers, chills,
rigors, sweats, abdominal pain, nausea, SOB or change in bowel
and bladder habits. On exam he has multiple well-healed surgical
incisions excepting the medial RLQ oblique incision which has a 
1
cm draining superficial dehiscence in the middle of an otherwise
well-healing scar. There is erythema the length of the incision
and palpable induration. Purulent fluid is readily expressed,
particularly from the medial pole of the wound. WBC is 9.5, Cr
1.9 (last 1.6 on ___, LFTs are mildly elevated consistent with
the last measured values on ___. 

 
Past Medical History:
___ gunshot wounds in ___ status post exploratory
laparotomy and colostomy.
___ colostomy was reversed.  
___, he had a history of small-bowel obstruction with
multiple surgeries that retrieved most of his small bowel.  
___, laparotomy again had multiple surgeries again for 
small
bowel obstruction.
___, he had a right knee arthroscopy.
___, diagnosis of cirrhosis and bleeding varices.  
___, he had hepatorenal syndrome and liver failure and he
had his combined liver and kidney transplant at ___.
H/o cholangitis, multiple ERCP with plastic/metal stents.
___ cystoscopy to remove a stent that was placed that was
causing urosepsis (this resulted in a lawsuit against ___).  
___, he underwent a lysis of adhesions at ___.
___ cholangitis/ s/p ERCP and stent placement.
___. Hepaticojejunostomy with Roux-en-Y.
___  PTC and liver biopsy with chronic rejection.
___ Orthotropic Deceased Donor Liver Transplant
Hepatic encephalopathy
Gout
Depression
Insomnia 
 
Social History:
___
Family History:
Mother - dementia (___)
Father - diabetes/prostate cancer (___)
2 Children, 3 Grandchildren all healthy
 
Physical Exam:
VS:  97.3  83  123/81  14  100%RA
GEN: NAD, well-nourished, appropriately groomed.
NEURO: AOx3, CN II-XII grossly intact
HEENT: Sclerae anicteric, trachea midline, no JVD
CV: RRR no MRG, 2+ peripheral pulses bilaterally  
RESP: CTAB no WRC, no respiratory distress
GI: Extensive abdominal scarring from previous surgical
incisions. Medial RLQ oblique incision with a 1 cm draining
superficial dehiscence in the middle of an otherwise 
well-healing
scar. Erythema the length of the incision with palpable
induration. Purulent fluid readily expressed, particularly from
the medial pole of the wound. Abdomen otherwise soft, non-tender
and non-distended. No rebound tenderness or guarding. Dull to
percussion. Bowel sounds normoactive. Rectal exam deferred
EXT: WWP no CCE

LAB VALUES:

Lactate: 5.5

139  111  35 
-------------< 138 
5.5  16  1.9   

ALT: 57 AP: 231 Tbili: 2.2 Alb: 3.7 
AST: 25 Lip: 19     

9.5 ___ > 10.1 / 31.2 < 205 ___ 
 
N:83.1 L:9.0 M:6.7 E:0.2 Bas:0.2 ___: 0.8 Absneut: 7.88
Abslymp: 0.85 Absmono: 0.64 Abseos: 0.02 Absbaso: 0.02  

___: 12.2  PTT: 24.7  INR: 1.1  

IMAGING/STUDIES:

N/A

 
Pertinent Results:
___ 11:57AM BLOOD WBC-9.5# RBC-3.24* Hgb-10.1* Hct-31.2* 
MCV-96 MCH-31.2 MCHC-32.4 RDW-17.0* RDWSD-58.5* Plt ___
___ 03:55AM BLOOD WBC-5.3 RBC-2.87* Hgb-9.0* Hct-26.8* 
MCV-93 MCH-31.4 MCHC-33.6 RDW-16.8* RDWSD-56.2* Plt ___
___ 11:26AM BLOOD WBC-6.0# RBC-3.53* Hgb-10.9* Hct-33.4* 
MCV-95 MCH-30.9 MCHC-32.6 RDW-18.7* RDWSD-63.1* Plt ___
___ 11:57AM BLOOD Glucose-138* UreaN-35* Creat-1.9* Na-139 
K-5.5* Cl-111* HCO3-16* AnGap-18
___ 03:55AM BLOOD Glucose-101* UreaN-32* Creat-1.6* Na-137 
K-5.1 Cl-110* HCO3-15* AnGap-17
___ 04:40AM BLOOD Glucose-112* UreaN-33* Creat-1.7* Na-136 
K-5.1 Cl-109* HCO3-15* AnGap-17
___ 11:26AM BLOOD Glucose-111* UreaN-43* Creat-1.8*# Na-139 
K-4.8 Cl-112* HCO3-17* AnGap-15
___ 11:26AM BLOOD ALT-34 AST-13 AlkPhos-185* TotBili-1.7*
___ 03:55AM BLOOD tacroFK-12.6
___ 04:20AM BLOOD tacroFK-11.6
___ 04:40AM BLOOD tacroFK-8.1

 
 
___ 11:57 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

 
 
___ 12:25 pm SWAB

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 

   WOUND CULTURE (Final ___: 
      LACTOBACILLUS SPECIES.    MODERATE GROWTH. 
      ENTEROCOCCUS SP..    SPARSE GROWTH. 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
in this
         culture. 
         Work-up of organism(s) listed discontinued (excepted 
screened
         organisms) due to the presence of mixed bacterial flora 
detected
         after further incubation. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------  =>32 R
LINEZOLID-------------     2 S
PENICILLIN G----------  =>64 R
VANCOMYCIN------------  =>32 R

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


 
 

 
Brief Hospital Course:
___ PMH EtOH cirrhosis, s/p combo liver/kidney trx (___) 
c/bbiliary strict and chronic rejection requiring 
___, recently hospitalized for PNA, was 
readmitted for incision wound infection. Wound was I&D'd in the 
ED and he was admitted to transplant surgery where he was 
started on broad spectrum antibiotics pending blood and 
incision/wound cultures. The wound was packed with Iodiform. 

Wound culture initially isolated 2+ GPRs. He was afebrile and 
would improved. Final culture data was unable until after 
patient discharged on Augmentin to complete a weeks course. 
Wound measured 2cm x 1cm. Normal saline damp to dry dressings 
were to be done bid. Blood cultures drawn were unfinalized, but 
negative to date. Of note, after patient was discharged, his 
wound culture was finalized as VRE. The plan was to switch to 
Linezolid for 7 days. His outpatient coordinator was notified 
and was to call in the Linezolid to pharmacy and call the 
patient. 

While in patient, nutrition recommended tube feeds for poor po 
intake. A post pyloric feeding tube was placed and tube feeds 
were started (Nepro). ___ provided teaching to the patient and 
his wife on ___ and supplies were delivered to the patient. 

Vital signs remained stable, LFTs improved some more. At time of 
discharge to home, his immunosuppression was set as tacrolimus 
3mg twice daily as his tacrolimus level was not back. Tacrolimus 
level was inaccurately reported and it was felt that the level 
reported was his roommate's and vice versa. So, his dose was 
increased to 3.5mg twice daily for a presumed level of 6.9 which 
was on the low side and was more consistent with the prior day 
of 8.1. Also, fluconazole was renally dosed and decreased to 
200mg daily to start ___. Next lab draw was set for ___. 

___ services were arranged in addition to ___. He was 
discharged to home appearing alert and in NAD. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. NPH 10 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
2. Sodium Bicarbonate 650 mg PO TID 
3. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
4. Omeprazole 40 mg PO DAILY 
5. PredniSONE 12.5 mg PO DAILY 
6. Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___) 
7. Tacrolimus 3.5 mg PO Q12H 
8. ValGANCIclovir 450 mg PO EVERY OTHER DAY 
9. Allopurinol ___ mg PO DAILY 
10. amLODIPine 10 mg PO DAILY 
11. Cyanocobalamin 1000 mcg PO EVERY 4  WEEKS (___) 
12. Docusate Sodium 100 mg PO BID 
13. Escitalopram Oxalate 15 mg PO DAILY 
14. Fluconazole 400 mg PO Q24H 
15. Multivitamins 1 TAB PO DAILY 
16. Mycophenolate Sodium ___ 720 mg PO BID 
17. Senna 8.6 mg PO BID:PRN constipation 
18. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
19. TraZODone 25 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
End date ___ 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*9 Tablet Refills:*0 
2.  Fluconazole 200 mg PO Q24H  
3.  NPH 10 Units Breakfast
Insulin SC Sliding Scale using REG Insulin 
4.  Omeprazole 20 mg PO DAILY  
5.  PredniSONE 10 mg PO DAILY Duration: 7 Days 
follow taper  
6.  Sulfameth/Trimethoprim DS 1 TAB PO EVERY OTHER DAY  
7.  Tacrolimus 3.5 mg PO Q12H  (changed to 3.5 twice daily from 
3mg twice daily on ___ for level of 6.9
8.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
Maximum 6 of the 325 mg tablets daily  
9.  Allopurinol ___ mg PO DAILY  
10.  amLODIPine 10 mg PO DAILY  
11.  Cyanocobalamin 1000 mcg PO EVERY 4  WEEKS (___)  
12.  Docusate Sodium 100 mg PO BID 
Hold for loose bowel movements or more than 2 bowel movements 
daily  
13.  Escitalopram Oxalate 15 mg PO DAILY  
14.  Multivitamins 1 TAB PO DAILY  
15.  Mycophenolate Sodium ___ 720 mg PO BID  
16.  Senna 8.6 mg PO BID:PRN constipation 
Hold for loose bowel movements or more than 2 bowel movements 
daily  
17.  Sodium Bicarbonate 650 mg PO TID  
18.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate  
19.  TraZODone 25 mg PO HS:PRN insomnia  
20.  ValGANCIclovir 450 mg PO EVERY OTHER DAY  
21.Tube Feed Orders
Tubefeeding: Nepro or Equivalent
 Full strength;  Goal rate: 50 ml/hr
 Residual Check: q4h Hold feeding for residual >= : 200 ml
Flush w/ 50 ml water q6h
Dispense 1 month supply;   Refill: 5

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Severe malnutrition (decreased grip strength)
liver transplant
transplant incision abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call the transplant clinic at ___ for fever > 
101, chills, nausea, vomiting, diarrhea, constipation, inability 
to tolerate food, fluids or medications, feeding tube clogs, 
yellowing of skin or eyes, increased abdominal pain, incisional 
redness, drainage or bleeding, dizziness or weakness, decreased 
urine output or dark, cloudy urine, swelling of abdomen or 
ankles, or any other concerning symptoms.

You will have labwork drawn every ___ and ___ as 
arranged by the transplant clinic, with results to the 
transplant clinic (Fax ___ . CBC, Chem 10, AST, ALT, 
Alk Phos, T Bili, Trough Tacro level. 

**On the days you have your labs drawn, do not take your 
Tacrolimus until your labs are drawn. Bring your Tacrolimus with 
you so you may take your medication as soon as your labwork has 
been drawn.

Please note that the Fluconazole dose has been decreased to 
200mg daily. 

You have been prescribed an antibiotic (augmentin) for your 
abdominal incision infection

Follow your medication card, keep it updated with any dosage 
changes, and always bring your card with you to any clinic or 
hospital visits.

You may shower. Allow the water to run over your incision and 
pat area dry. No rubbing, no lotions or powder near the 
incision. 

Continue NS damp to dry dressing to the incision open area. 
Monitor for increased redness, drainage, foul odor or other 
concerns.
Complete Augmentin course as prescribed.

No tub baths or swimming
No driving if taking narcotic pain medications

Avoid direct sun exposure. Wear protective clothing and a hat, 
and always wear sunscreen with SPF 30 or higher when you go 
outdoors.

Drink enough fluids to keep your urine light in color. 
You have had a feeding tube placed and have started tube feeds 
to help with nutrition. Please continue the tube feeds as 
ordered in addition to flushes. Monitor for clogging of the tube 
or any increase in diarrhea or blood sugars that are hard to 
manage.

Check your blood sugars and blood pressure at home. Report 
consistently elevated values to the transplant clinic

Do not increase, decrease, stop or start medications without 
consultation with the transplant clinic at ___. There 
are significant drug interactions with anti-rejection 
medications which must be considered in medication management 
following transplant

Refer to transplant binder, and there is always someone on call 
at the transplant clinic with any questions that may arise

 
Followup Instructions:
___